US08314117B2
(6S,9S)-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-6,9-diol.
In a 250 mL round-bottom flask was dissolved (6R,95)-6-(2,3-difluorophenyl)-9-(triisopropylsilyloxy)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-6-ol (977 mg, 2.183 mmol) in tetrahydrofuran (10 mL) to give a colorless solution. TBAF (4.80 mL, 4.80 mmol) was added, and the mixture was stirred at 50° C. overnight for 16 h. LCMS indicated good conversion with some SM left. Another 0.2 equiv of TBAF was added and the reaction continued at 50° C. for 2 h. Tetrahydrofuran was removed and the residue was partitioned between water and ethyl acetate. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried with sodium sulfate, and concentrated to give a tan oil. Purification by FCC up to 10% methanol/methylene chloride afforded the desired product as a white solid (458 mg, 72%). MS(ESI)[M+H+]=292.21; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.05 (d, J=3.78 Hz, 1H) 7.37 (d, J=7.55 Hz, 1H) 7.06-7.21 (m, 1H) 6.81-7.05 (m, 3H) 5.63 (br. s., 1H) 4.82-4.97 (m, 1H) 3.68-4.11 (m, 2H) 3.00 (d, J=14.35 Hz, 1H) 2.77 (t, J=10.58 Hz, 1H) 2.13 (t, J=11.21 Hz, 1H) 1.87-2.03 (m, 1H) 1.69-1.86 (m, 1H); 19F NMR (376 MHz, CHLOROFORM-d) δ ppm −137.37 (br. s., 1F) −137.99 (d, J=15.52 Hz, 1F).

reactant | (6R,95)-6-(2,3-difluorophenyl)-9-(triisopropylsilyloxy)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-6-ol | 2.183 mmol, 977 mg | FC1=C(C=CC=C1F)[C@@]1(CC=2C(=NC=CC2)[C@H](CC1)O[Si](C(C)C)(C(C)C)C(C)C)O | C25H35F2NO2Si
reactant | TBAF | 4.80 mmol, 4.80 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | TBAF | 0.2 equiv | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (6S,9S)-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-6,9-diol | 458 mg, 72% | FC1=C(C=CC=C1F)[C@]1(CC=2C(=NC=CC2)[C@H](CC1)O)O | C16H15F2NO2
